US07732435B2
3-Bromo-7-hydroxy-2-isopropyl-8-nitro-chromen-4-one
3-Bromo-7-hydroxy-2-isopropyl-chromen-4-one (778 mg, 2.75 mmol) is dissolved in concentrated sulphuric acid (4 ml), and the solution is cooled to 0° C. A solution of fuming nitric acid (189 mg, 3 mmol) in concentrated sulphuric acid (1 ml) is added dropwise. The mixture is stirred at 0° C. for 30 min, poured onto ice, recovered by filtration and dried to give a cream-coloured solid.

reactant | 3-Bromo-7-hydroxy-2-isopropyl-chromen-4-one | 2.75 mmol, 778 mg | BrC1=C(OC2=CC(=CC=C2C1=O)O)C(C)C | C12H11BrO3
reactant | nitric acid | 3 mmol, 189 mg | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-7-hydroxy-2-isopropyl-8-nitro-chromen-4-one | BrC1=C(OC2=C(C(=CC=C2C1=O)O)[N+](=O)[O-])C(C)C | C12H10BrNO5
